US03951989
A mixture of 0.237 part of ethyl 2-methyl-4-hydroxythieno-[2,3-b]pyridine-5-carboxylate, 5 parts by volume of dry dimethyl-formamide and 0.048 part of 50 % sodium hydride in mineral oil is heated at 70°C for 30 minutes, and 0.12 part by volume of ethyl iodide is added thereto. The mixture is heated at 70°C for 2 hours and the solvent is evaporated under reduced pressure. The residue is extracted with chloroform, and the extract is washed with saturated aqueous sodium chloride and dried over sodium sulfate. Evaporation of the solvent gives ethyl 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylate as crystals. Recrystallization from ethyl acetate yields colorless plates melting at 140°-142°C. This product is identical with the product in Example 24.

reactant | ethyl 2-methyl-4-hydroxythieno-[2,3-b]pyridine-5-carboxylate | CC1=CC=2C(=NC=C(C2O)C(=O)OCC)S1 | C11H11NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | ethyl 7-ethyl-4,7-dihydro-2-methyl-4-oxothieno[2,3-b]pyridine-5-carboxylate | C(C)N1C2=C(C(C(=C1)C(=O)OCC)=O)C=C(S2)C | C13H15NO3S
